US08193228B2
In a 250-mL round-bottom flask, a mixture of 1-{4-[(Z)-1-(trifluoromethyl)-2-(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1H-imidazol-2-yl)vinyl]phenyl}-1H-pyrazole (5.05 g, 11.8 mmol) and 60 wt % sodium hydride (0.89 g, 22 mmol) were mixed with tetrahydrofuran (80 mL). After bubbling ceased, dimethylsulfamoyl chloride (2.6 mL, 24.26 mmol) was added, and the reaction mixture was stirred overnight. The reaction mixture was quenched with water and extracted with diethyl ether. The combined organic extracts were washed with brine, dried (potassium carbonate), and concentrated in vacuo to afford an orange solid. Chromatography over silica eluting with 25-40% ethyl acetate/hexanes afforded N,N-dimethyl-4-{[1-(trifluoromethyl)cyclopropyl]methyl}-2-{(1Z)-3,3,3-trifluoro-2-[4-(1H-pyrazol-1-yl)phenyl]prop-1-en-1-yl}-1H-imidazole-1-sulfonamide, as a yellow solid.

reactant | 1-{4-[(Z)-1-(trifluoromethyl)-2-(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1H-imidazol-2-yl)vinyl]phenyl}-1H-pyrazole | 11.8 mmol, 5.05 g | FC(\C(=C/C=1NC=C(N1)CC1(CC1)C(F)(F)F)\C1=CC=C(C=C1)N1N=CC=C1)(F)F | C20H16F6N4
reactant | sodium hydride | 22 mmol, 0.89 g | [H-].[Na+]
reactant | dimethylsulfamoyl chloride | 24.26 mmol, 2.6 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | N,N-dimethyl-4-{[1-(trifluoromethyl)cyclopropyl]methyl}-2-{(1Z)-3,3,3-trifluoro-2-[4-(1H-pyrazol-1-yl)phenyl]prop-1-en-1-yl}-1H-imidazole-1-sulfonamide | CN(S(=O)(=O)N1C(=NC(=C1)CC1(CC1)C(F)(F)F)\C=C(/C(F)(F)F)\C1=CC=C(C=C1)N1N=CC=C1)C | C22H21F6N5O2S
